* File: halfadder.pex.netlist.pex
* Created: Fri May 19 20:10:31 2023
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_HALFADDER%Y 11 16 20 34 39 42 45
c0 83 0 0.0453278f
c1 73 0 0.157959f
c2 69 0 0.205878f
c3 67 0 0.023588f
c4 64 0 0.0802419f
c5 59 0 0.134538f
c6 57 0 0.0886008f
c7 54 0 0.137081f
c8 53 0 0.100604f
c9 48 0 0.117786f
c10 47 0 0.0422065f
c11 46 0 0.0551487f
c12 42 0 0.371177f
c13 39 0 0.191083f
c14 34 0 0.0887169f
c15 30 0 0.0915561f
c16 27 0 0.113084f
c17 24 0 0.136221f
c18 20 0 0.257846f
c19 16 0 0.105072f
c20 4 0 0.0400999f
r21 72 73 8
r22 67 69 0.0488691
r23 64 83 0.0518409
r24 63 64 8
r25 59 60 8
r26 57 72 0.09737
r27 57 59 0.16575
r28 54 60 0.13944
r29 53 55 8.07448
r30 53 54 13.2552
r31 51 73 0.15176
r32 50 51 13.2552
r33 48 50 4.5
r34 45 55 34.5
r35 42 45 97
r36 37 48 4.71363
r37 37 39 34.5
r38 36 47 8.43011
r39 36 39 72.5
r40 32 47 8.43011
r41 32 34 24.25
r42 30 67 8
r43 29 30 13.2552
r44 27 47 1.56772
r45 27 29 5.06667
r46 24 64 13.2552
r47 22 46 1.84512
r48 22 24 5.51429
r49 18 46 9.22121
r50 18 20 82.5
r51 14 46 9.22121
r52 14 16 26
r53 11 83 0.0197826
r54 4 63 0.0486091
r55 4 69 0.689
.ends

.subckt PM_HALFADDER%noxref_2 5 10 11 15
c0 28 0 0.322515f
c1 18 0 0.108407f
c2 14 0 0.134363f
c3 8 0 0.0846428f
r4 25 28 0.3588
r5 21 25 0.35854
r6 18 28 8
r7 17 18 16.3327
r8 15 17 4.59
r9 14 25 8
r10 13 14 16.3327
r11 11 13 4.59
r12 10 13 4.59
r13 8 21 8
r14 7 8 16.3327
r15 5 7 4.572
.ends

.subckt PM_HALFADDER%X 8 23 27 31 33 40 43
c0 75 0 0.0526386f
c1 74 0 0.0578264f
c2 73 0 0.0205779f
c3 70 0 0.0943286f
c4 69 0 0.025921f
c5 65 0 0.327726f
c6 62 0 0.116444f
c7 59 0 0.0438784f
c8 58 0 0.0815026f
c9 56 0 0.0795712f
c10 50 0 0.0549458f
c11 47 0 0.128642f
c12 43 0 0.194895f
c13 40 0 0.0638127f
c14 35 0 0.109505f
c15 31 0 0.342674f
c16 29 0 0.101127f
c17 27 0 0.242425f
c18 23 0 0.0988722f
c19 17 0 0.128843f
c20 6 0 0.0197286f
c21 5 0 0.788242f
c22 4 0 0.0866136f
r23 73 75 0.0487391
r24 73 74 8
r25 69 70 8
r26 61 65 0.32695
r27 61 62 8
r28 56 65 8
r29 55 58 8.07022
r30 55 56 13.2552
r31 53 62 0.124444
r32 52 53 13.2552
r33 47 74 13.2552
r34 45 59 1.66774
r35 45 47 5.60526
r36 41 59 8.70489
r37 41 43 72.25
r38 38 59 8.70489
r39 38 40 25.5
r40 37 40 17.5
r41 35 37 5.02856
r42 35 58 36
r43 31 33 97
r44 29 52 8.33597
r45 29 31 27.75
r46 25 50 9.22121
r47 25 27 82.5
r48 21 50 9.22121
r49 21 23 26
r50 19 70 13.2552
r51 17 50 1.84512
r52 17 19 1.91429
r53 9 75 0.4173
r54 6 8 0.9685
r55 5 9 0.0363174
r56 5 8 1.95
r57 4 69 0.0487391
r58 3 6 0.0363174
r59 3 4 0.4134
.ends

.subckt PM_HALFADDER%S 10 20 21 25 26
c0 29 0 0.116868f
c1 25 0 0.0100531f
c2 24 0 0.128562f
c3 14 0 0.0327753f
c4 13 0 0.09497f
c5 10 0 0.466888f
c6 4 0 0.0440092f
c7 3 0 0.0846955f
r8 28 29 16.3327
r9 26 28 4.59
r10 25 28 4.59
r11 23 24 8.16635
r12 21 23 2.295
r13 20 23 2.295
r14 13 24 0.0496831
r15 11 29 0.143043
r16 8 14 0.0296412
r17 8 10 0.471739
r18 5 14 0.00770322
r19 5 13 0.23587
r20 4 11 0.039111
r21 3 14 0.0296412
r22 3 4 0.168913
.ends

.subckt PM_HALFADDER%W1 8 9 13 25 29
c0 31 0 0.0347818f
c1 29 0 0.121355f
c2 25 0 0.209631f
c3 21 0 0.219177f
c4 18 0 0.0981605f
c5 16 0 0.0868476f
c6 12 0 0.188165f
c7 7 0 0.0116844f
c8 4 0 0.0391502f
c9 3 0 0.209874f
r10 27 31 7.73958
r11 27 29 42
r12 23 31 7.73958
r13 23 25 74.5
r14 20 21 13.2552
r15 18 31 1.29764
r16 18 20 4.5766
r17 15 16 16.3327
r18 13 15 4.608
r19 11 12 8.16635
r20 9 11 2.394
r21 8 11 2.286
r22 6 21 0.581609
r23 6 7 0.00770322
r24 5 12 0.220652
r25 5 7 0.0296412
r26 4 16 0.175304
r27 3 7 0.0296412
r28 2 4 0.039111
r29 2 3 0.450435
.ends

.subckt PM_HALFADDER%C 2 7 16
c0 10 0 0.395909f
r1 9 10 16.3327
r2 7 9 4.608
r3 5 16 0.0715217
r4 5 10 0.778826
r5 4 5 8.16635
r6 2 4 2.304
.ends

.subckt PM_HALFADDER%XXOR1/INV_Y 6 11 18 22
c0 27 0 0.146079f
c1 25 0 0.267287f
c2 24 0 0.116775f
c3 18 0 0.169162f
c4 14 0 0.254345f
c5 9 0 0.217081f
c6 5 0 0.0165278f
r7 24 27 8.07448
r8 24 26 8.07448
r9 24 25 13.2552
r10 22 27 32.5
r11 18 26 41
r12 13 14 16.3327
r13 11 13 4.608
r14 8 9 8.16635
r15 6 8 2.304
r16 4 25 0.614174
r17 4 5 0.0220299
r18 3 9 0.0824444
r19 3 5 0.0164491
r20 2 14 0.229289
r21 2 5 0.0164491
.ends

.subckt PM_HALFADDER%XXOR1/INV_X 10 15 22 26
c0 31 0 0.11154f
c1 28 0 0.113444f
c2 22 0 0.159861f
c3 18 0 0.0987433f
c4 13 0 0.160358f
c5 9 0 0.0125696f
c6 8 0 0.228507f
c7 7 0 0.0362668f
c8 3 0 0.168753f
r9 28 31 8.2742
r10 28 30 8.2742
r11 28 29 13.2552
r12 26 31 30
r13 22 30 43.5
r14 18 34 0.0515298
r15 17 18 16.3327
r16 15 17 4.59
r17 12 13 8.16635
r18 10 12 2.295
r19 8 29 0.431261
r20 8 9 0.00770322
r21 7 13 0.0509599
r22 4 9 0.0296412
r23 4 7 0.123261
r24 3 9 0.0296412
r25 3 34 0.365217
.ends

.subckt PM_HALFADDER%GND 5 12 32 37 42 47 48 52
c0 72 0 0.0671054f
c1 70 0 0.133555f
c2 67 0 0.0235062f
c3 55 0 0.153266f
c4 54 0 0.00172061f
c5 51 0 0.20502f
c6 47 0 0.0125906f
c7 45 0 0.143153f
c8 40 0 0.0659495f
c9 35 0 0.0887386f
c10 32 0 0.0172437f
c11 29 0 0.0300953f
c12 25 0 0.0200226f
c13 19 0 0.0130727f
c14 11 0 0.0101425f
c15 8 0 0.01326f
c16 6 0 0.14468f
c17 2 0 0.212803f
r18 55 67 0.136267
r19 54 55 16.3327
r20 52 54 4.59
r21 50 51 16.3327
r22 48 50 4.59
r23 47 50 4.59
r24 45 62 0.120711
r25 44 45 16.3327
r26 42 44 4.572
r27 40 59 0.248348
r28 39 40 16.3327
r29 37 39 4.572
r30 34 35 16.3327
r31 32 34 4.572
r32 30 67 0.0161054
r33 29 30 16.3327
r34 25 62 0.00528058
r35 25 72 0.0496783
r36 24 25 16.3327
r37 22 72 0.381652
r38 22 73 0.126609
r39 21 24 30.0638
r40 21 22 16.3327
r41 19 59 0.00770322
r42 19 70 0.0296412
r43 19 73 0.0296412
r44 18 21 10.1489
r45 18 19 16.3327
r46 15 70 0.514043
r47 14 18 34.5638
r48 14 15 5.44423
r49 12 29 109.551
r50 12 24 18.5362
r51 10 51 0.398696
r52 10 11 0.00770322
r53 9 35 0.251391
r54 8 15 0.240739
r55 8 9 0.039111
r56 7 11 0.0296412
r57 6 30 0.0285814
r58 6 7 0.718261
r59 3 25 0.0496783
r60 3 5 0.528043
r61 2 11 0.0296412
r62 2 5 0.610217
.ends

.subckt PM_HALFADDER%VDD 23 24 29 34 39 44 49 54 96
c0 99 0 0.0278408f
c1 65 0 0.00810347f
c2 57 0 0.165706f
c3 52 0 0.19224f
c4 47 0 0.213605f
c5 42 0 0.118954f
c6 37 0 0.0976993f
c7 32 0 0.095012f
c8 27 0 0.0927126f
c9 21 0 0.0956226f
c10 17 0 0.0851203f
c11 14 0 0.00886333f
c12 13 0 0.0162142f
c13 10 0 0.00810347f
c14 9 0 0.021979f
c15 6 0 0.00910461f
c16 5 0 0.0736638f
c17 4 0 0.0330216f
c18 2 0 0.0147023f
r19 88 103 0.0153212
r20 88 99 0.0293656
r21 87 88 16.3327
r22 85 99 0.322609
r23 84 87 24.4149
r24 84 85 5.44423
r25 81 84 27.5745
r26 81 82 5.44423
r27 79 82 0.438261
r28 79 96 0.0882609
r29 78 81 27.5745
r30 78 79 5.44423
r31 75 78 18.3638
r32 75 76 16.3327
r33 71 76 0.292174
r34 70 71 5.44423
r35 68 91 0.111391
r36 67 70 42.6064
r37 67 68 16.3327
r38 65 101 0.00770322
r39 65 91 0.0296412
r40 64 67 9.19149
r41 64 65 16.3327
r42 60 64 34.4681
r43 60 61 8.16635
r44 57 103 0.228667
r45 56 57 8.16635
r46 54 56 2.295
r47 51 52 8.16635
r48 49 51 2.295
r49 46 47 8.16635
r50 44 46 2.286
r51 41 42 8.16635
r52 39 41 2.286
r53 37 101 0.381957
r54 36 37 8.16635
r55 34 36 2.286
r56 31 32 8.16635
r57 29 31 2.304
r58 26 27 8.16635
r59 24 26 2.286
r60 23 75 11.9681
r61 23 70 6.41489
r62 21 82 0.14913
r63 21 22 0.0496783
r64 20 85 0.152174
r65 20 22 0.0496783
r66 19 52 0.252
r67 19 22 0.00528058
r68 17 76 0.0392609
r69 17 18 0.0496783
r70 16 96 0.0273913
r71 16 18 0.0496783
r72 15 47 0.252
r73 15 18 0.00528058
r74 13 68 0.430348
r75 13 14 0.0296412
r76 12 71 0.176826
r77 12 14 0.0296412
r78 11 42 0.0746667
r79 9 61 0.110783
r80 9 10 0.0296412
r81 8 32 0.381957
r82 8 10 0.00770322
r83 7 27 0.381957
r84 6 61 0.242261
r85 6 7 0.0484439
r86 5 14 0.00770322
r87 4 11 0.0433427
r88 4 5 0.278478
r89 3 10 0.0296412
r90 2 65 0.0296412
r91 2 3 0.331739
.ends

.subckt PM_HALFADDER%noxref_11 1 2
r0 1 2 4.59
.ends

.subckt PM_HALFADDER%noxref_12 1 2
r0 1 2 4.59
.ends

.subckt PM_HALFADDER%XNAND21/N1_S 1 2
c0 1 0 0.0213789f
r1 1 2 9.36
.ends

