* File: NAND.pex.netlist.pex
* Created: Mon May  8 18:33:37 2023
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NAND%A 8 12 16
c0 14 0 0.069375f
c1 12 0 0.17044f
c2 8 0 0.186022f
c3 5 0 0.105262f
c4 2 0 0.228404f
r5 10 14 10.282
r6 10 12 53.5
r7 6 14 10.282
r8 6 8 57.75
r9 5 16 0.0371212
r10 4 5 13.2552
r11 2 14 2.17013
r12 2 4 4.5
.ends

.subckt PM_NAND%N1_S 2 3
c0 5 0 0.13756f
r1 3 5 4.59
r2 2 5 4.77
.ends

.subckt PM_NAND%OUT_2 6 7 13 17
c0 17 0 0.346858f
c1 12 0 0.0703617f
c2 3 0 0.0350973f
c3 2 0 0.122084f
r4 11 13 9.61892
r5 11 12 16.3327
r6 10 17 0.439478
r7 9 10 8.16635
r8 7 9 2.295
r9 6 9 2.385
r10 5 17 0.129957
r11 4 12 0.196
r12 3 4 0.039111
r13 2 5 0.039111
r14 2 3 0.214565
.ends

.subckt PM_NAND%B 4 8 18
c0 18 0 0.0621829f
c1 14 0 0.0575118f
c2 10 0 0.166228f
c3 8 0 0.174977f
c4 4 0 0.190502f
r5 13 18 0.0320561
r6 12 13 13.2552
r7 10 14 1.89843
r8 10 12 3.94615
r9 6 14 9.38432
r10 6 8 55.5
r11 2 14 9.38432
r12 2 4 61.75
.ends

.subckt PM_NAND%VDD 2 3 8 30
c0 33 0 0.0190879f
c1 31 0 0.017358f
c2 26 0 0.00879889f
c3 11 0 0.137694f
c4 6 0 0.133787f
r5 26 30 0.101957
r6 24 33 0.0188009
r7 24 26 0.020801
r8 23 24 16.3327
r9 19 30 0.14
r10 19 27 0.111087
r11 18 19 8.16635
r12 15 31 0.0195555
r13 15 27 0.0195555
r14 14 18 9.19149
r15 14 15 16.3327
r16 11 33 0.421
r17 10 11 8.16635
r18 8 10 2.295
r19 6 31 0.512522
r20 5 6 8.16635
r21 3 5 2.295
r22 2 23 13.7872
r23 2 18 4.59574
.ends

.subckt PM_NAND%GND 2 15 23
c0 19 0 0.0323443f
c1 16 0 0.00919433f
c2 14 0 0.128753f
r3 19 23 0.0195555
r4 16 23 0.0195555
r5 14 16 0.462913
r6 13 15 9.70892
r7 13 14 16.3327
r8 10 23 16.3327
r9 5 19 0.255652
r10 4 5 5.44423
r11 2 10 13.7872
r12 2 4 4.59574
.ends

