* File: NOR.pex.netlist.pex
* Created: Mon May  8 21:44:27 2023
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR%C 8 12 16
c0 14 0 0.0575118f
c1 12 0 0.223893f
c2 8 0 0.190465f
c3 5 0 0.0542053f
c4 2 0 0.165746f
r5 10 14 9.38432
r6 10 12 74.25
r7 6 14 9.38432
r8 6 8 61
r9 5 16 0.051028
r10 4 5 13.2552
r11 2 14 1.89843
r12 2 4 3.94615
.ends

.subckt PM_NOR%VDD 2 5 19
c0 21 0 0.0162069f
c1 19 0 0.026967f
c2 4 0 0.168829f
r3 14 19 0.0486957
r4 14 16 0.255652
r5 13 14 5.44423
r6 8 21 0.0195555
r7 8 16 0.0195555
r8 7 8 16.3327
r9 4 21 0.647957
r10 3 5 4.85446
r11 3 4 8.16635
r12 2 13 4.59574
r13 2 7 13.7872
.ends

.subckt PM_NOR%P3_D 2 3
c0 5 0 0.22816f
r1 3 5 2.385
r2 2 5 2.295
.ends

.subckt PM_NOR%D 4 8 18
c0 18 0 0.101319f
c1 14 0 0.069375f
c2 10 0 0.228085f
c3 8 0 0.218358f
c4 4 0 0.187139f
r5 13 18 0.0185606
r6 12 13 13.2552
r7 10 14 2.17013
r8 10 12 4.5
r9 6 14 10.282
r10 6 8 69.75
r11 2 14 10.282
r12 2 4 59.5
.ends

.subckt PM_NOR%GND 2 16 21 37
c0 32 0 0.00785831f
c1 29 0 0.017364f
c2 26 0 0.0190936f
c3 24 0 0.0973777f
c4 19 0 0.0999577f
r5 32 37 0.0195555
r6 29 37 0.0195555
r7 24 29 0.400522
r8 23 24 16.3327
r9 21 23 4.59
r10 19 26 0.329
r11 18 19 16.3327
r12 16 18 4.59
r13 13 37 16.3327
r14 9 32 0.257174
r15 9 33 0.0958696
r16 8 9 8.16635
r17 5 26 0.0188009
r18 5 33 0.020801
r19 4 8 9.19149
r20 4 5 16.3327
r21 2 13 13.7872
r22 2 8 4.59574
.ends

.subckt PM_NOR%OUT_3 8 9 10 17
c0 13 0 0.310167f
c1 7 0 0.102074f
c2 3 0 0.0337567f
c3 2 0 0.124149f
r4 13 17 0.287304
r5 12 13 16.3327
r6 10 12 4.77
r7 9 12 4.59
r8 6 8 4.80946
r9 6 7 8.16635
r10 5 7 0.196609
r11 4 17 0.391087
r12 3 4 0.039111
r13 2 5 0.039111
r14 2 3 0.214565
.ends

