* File: XOR.pex.netlist.pex
* Created: Wed May 17 19:55:02 2023
* Program "Calibre xRC"
* Version "v2017.4_19.14"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_XOR%Y 12 17 20 23 45
c0 41 0 0.157953f
c1 36 0 0.135309f
c2 34 0 0.0886499f
c3 31 0 0.137082f
c4 30 0 0.100604f
c5 25 0 0.11727f
c6 24 0 0.0422066f
c7 20 0 0.373112f
c8 17 0 0.184707f
c9 12 0 0.0857044f
c10 8 0 0.088281f
c11 5 0 0.112873f
r12 40 41 8
r13 36 37 8
r14 34 40 0.0975
r15 34 36 0.16575
r16 31 37 0.13944
r17 30 32 8.07448
r18 30 31 13.2552
r19 28 41 0.15176
r20 27 28 13.2552
r21 25 27 4.48077
r22 23 32 34.5
r23 20 23 97
r24 15 25 4.71363
r25 15 17 34.5
r26 14 24 8.43011
r27 14 17 72.5
r28 10 24 8.43011
r29 10 12 24.25
r30 8 45 0.0164706
r31 7 8 13.2552
r32 5 24 1.56772
r33 5 7 5.08333
.ends

.subckt PM_XOR%X 7 9 16 19 51
c0 51 0 0.0895664f
c1 40 0 0.45304f
c2 37 0 0.121615f
c3 34 0 0.0456701f
c4 33 0 0.0818197f
c5 31 0 0.0828796f
c6 23 0 0.12856f
c7 19 0 0.197676f
c8 16 0 0.0638127f
c9 11 0 0.110082f
c10 7 0 0.345047f
c11 5 0 0.102488f
r12 36 40 0.32695
r13 36 37 8
r14 31 40 8
r15 30 33 8.07022
r16 30 31 13.2552
r17 28 37 0.124444
r18 27 28 13.2552
r19 24 51 0.0235644
r20 23 24 13.2552
r21 21 34 1.66774
r22 21 23 5.60526
r23 17 34 8.70489
r24 17 19 72.25
r25 14 34 8.70489
r26 14 16 25.5
r27 13 16 17.5
r28 11 13 5.02856
r29 11 33 36
r30 7 9 97
r31 5 27 8.35525
r32 5 7 27.75
.ends

.subckt PM_XOR%noxref_3 5 10 11 15
c0 34 0 0.078631f
c1 33 0 0.183499f
c2 27 0 0.262188f
c3 18 0 0.0968162f
c4 14 0 0.123482f
c5 8 0 0.0722941f
r6 31 34 0.0318627
r7 31 33 0.0318627
r8 27 34 0.145446
r9 22 33 0.145446
r10 18 27 8
r11 17 18 16.3327
r12 15 17 4.59
r13 14 31 8
r14 13 14 16.3327
r15 11 13 4.59
r16 10 13 4.59
r17 8 22 8
r18 7 8 16.3327
r19 5 7 4.59
.ends

.subckt PM_XOR%F 18 19 23 24 31
c0 31 0 0.170329f
c1 27 0 0.116138f
c2 23 0 0.00778877f
c3 22 0 0.128577f
c4 16 0 0.268221f
c5 14 0 0.116296f
c6 12 0 0.0332931f
c7 11 0 0.09497f
c8 4 0 0.0440092f
c9 3 0 0.0859239f
r10 26 27 16.3327
r11 24 26 4.59
r12 23 26 4.59
r13 21 22 8.16635
r14 19 21 2.295
r15 18 21 2.295
r16 15 31 0.1807
r17 14 16 0.0516853
r18 14 15 8
r19 11 22 0.0496831
r20 9 27 0.143043
r21 8 12 0.0296412
r22 8 16 0.544783
r23 5 12 0.00770322
r24 5 11 0.23587
r25 4 9 0.039111
r26 3 12 0.0296412
r27 3 4 0.168913
.ends

.subckt PM_XOR%INV_Y 6 11 18 22
c0 27 0 0.145992f
c1 25 0 0.267942f
c2 24 0 0.116775f
c3 18 0 0.171054f
c4 14 0 0.245669f
c5 9 0 0.214456f
c6 5 0 0.0136102f
r7 24 27 8.07448
r8 24 26 8.07448
r9 24 25 13.2552
r10 22 27 32.5
r11 18 26 41
r12 13 14 16.3327
r13 11 13 4.59
r14 8 9 8.16635
r15 6 8 2.295
r16 4 25 0.614174
r17 4 5 0.0220299
r18 3 9 0.0824444
r19 3 5 0.0164491
r20 2 14 0.229444
r21 2 5 0.0164491
.ends

.subckt PM_XOR%INV_X 10 15 22 26
c0 31 0 0.11154f
c1 28 0 0.113444f
c2 22 0 0.161415f
c3 18 0 0.0986221f
c4 13 0 0.160493f
c5 9 0 0.0126f
c6 8 0 0.229962f
c7 7 0 0.0362668f
c8 3 0 0.172107f
r9 28 31 8.2742
r10 28 30 8.2742
r11 28 29 13.2552
r12 26 31 30
r13 22 30 43.5
r14 18 34 0.0516853
r15 17 18 16.3327
r16 15 17 4.59
r17 12 13 8.16635
r18 10 12 2.295
r19 8 29 0.431261
r20 8 9 0.00770322
r21 7 13 0.0509599
r22 4 9 0.0296412
r23 4 7 0.123261
r24 3 9 0.0296412
r25 3 34 0.365217
.ends

.subckt PM_XOR%VDD 14 15 20 25 30 64
c0 61 0 0.0278417f
c1 33 0 0.165604f
c2 28 0 0.192268f
c3 23 0 0.213465f
c4 18 0 0.0964811f
c5 12 0 0.0956226f
c6 8 0 0.0851203f
c7 5 0 0.00886346f
c8 3 0 0.0737683f
c9 2 0 0.0259108f
r10 61 64 0.0563043
r11 55 65 0.0153212
r12 55 61 0.0293656
r13 54 55 16.3327
r14 52 64 0.266304
r15 51 54 24.4149
r16 51 52 5.44423
r17 48 51 27.5745
r18 48 49 5.44423
r19 44 49 0.438261
r20 43 44 5.44423
r21 40 43 18.383
r22 40 41 16.3327
r23 37 41 0.292174
r24 36 40 18.383
r25 36 37 5.44423
r26 33 65 0.228667
r27 32 33 8.16635
r28 30 32 2.295
r29 27 28 8.16635
r30 25 27 2.295
r31 22 23 8.16635
r32 20 22 2.295
r33 17 18 8.16635
r34 15 17 2.295
r35 14 48 12.734
r36 14 43 14.8404
r37 12 49 0.14913
r38 12 13 0.0496783
r39 11 52 0.152174
r40 11 13 0.0496783
r41 10 28 0.252
r42 10 13 0.00528058
r43 8 41 0.0395652
r44 8 9 0.0496783
r45 7 44 0.115652
r46 7 9 0.0496783
r47 6 23 0.252
r48 6 9 0.00528058
r49 5 37 0.176522
r50 4 18 0.0746667
r51 3 5 0.0418245
r52 2 4 0.0433427
r53 2 3 0.278478
.ends

.subckt PM_XOR%GND 7 10 21 26 27 31
c0 41 0 0.00831442f
c1 36 0 0.0110982f
c2 34 0 0.137844f
c3 30 0 0.198377f
c4 26 0 0.0188005f
c5 24 0 0.135038f
c6 4 0 0.100269f
c7 2 0 0.139192f
r8 34 41 0.131444
r9 33 34 16.3327
r10 31 33 4.59
r11 29 30 16.3327
r12 27 29 4.59
r13 26 29 4.59
r14 24 36 0.115889
r15 23 24 16.3327
r16 21 23 4.59
r17 19 41 0.0166803
r18 18 19 16.3327
r19 13 36 0.0165467
r20 12 13 16.3327
r21 10 18 64.8191
r22 10 12 63.2872
r23 8 30 0.389565
r24 8 9 0.00770322
r25 5 9 0.0296412
r26 5 7 0.587391
r27 4 19 0.0280064
r28 4 7 0.13087
r29 3 13 0.02814
r30 2 9 0.0296412
r31 2 3 1.13826
.ends

.subckt PM_XOR%noxref_9 1 2
r0 1 2 4.59
.ends

.subckt PM_XOR%noxref_10 1 2
r0 1 2 4.59
.ends

